US05998412
Proceeding as described in Example 7, Step 2 above, but substituting potassium tert-butoxide and [4-(4-chlorophenyl)piperazine-1-sulfonyl]amine with tert-butyl chloroacetate and 5-(biphenyl-4-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidine gave tert-butyl 5-(biphenyl-4-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidine-2-acetate.

reactant | [4-(4-chlorophenyl)piperazine-1-sulfonyl]amine | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)N | C10H14ClN3O2S
reactant | tert-butyl chloroacetate | ClCC(=O)OC(C)(C)C | C6H11ClO2
reactant | 5-(biphenyl-4-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidine | C1(=CC=C(C=C1)CN1CCNS1(=O)=O)C1=CC=CC=C1 | C15H16N2O2S
product | tert-butyl 5-(biphenyl-4-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidine-2-acetate | C1(=CC=C(C=C1)CN1CCN(S1(=O)=O)CC(=O)OC(C)(C)C)C1=CC=CC=C1 | C21H26N2O4S
